US07253286B2
N-(2-Chloro-4-((6-cyano-7-((1-methyl-3-piperidyl)methoxy)-4-quinolyl)oxy)phenyl)-N′-cyclopropylurea
After dissolving 4-(4-amino-3-chlorophenoxy)-6-cyano-7-((1-methyl-3-piperidyl)methoxy)quinoline (246 mg, 0.582 mmol) in dimethylformamide (6 ml) under a nitrogen atmosphere, pyridine (0.19 ml, 2.33 mmol) and phenyl chloroformate (0.15 ml, 1.16 mmol) were added dropwise at room temperature, and the mixture was stirred for 1 hour. Cyclopropylamine (0.20 ml, 2.91 mmol) was added dropwise, and the mixture was further stirred for 3 hours. The reaction solution was distributed between ethyl acetate and saturated aqueous sodium bicarbonate, and the organic layer was washed with water and saturated brine and dried over anhydrous sodium sulfate. The solvent was distilled off, the residue was suspended in methanol and diluted with water, and the crystals were filtered out and dried at 70° C. to obtain the title compound (198.7 mg, 0.393 mmol, 67.5%) as light yellow crystals.

reactant | 4-(4-amino-3-chlorophenoxy)-6-cyano-7-((1-methyl-3-piperidyl)methoxy)quinoline | 0.582 mmol, 246 mg | NC1=C(C=C(OC2=CC=NC3=CC(=C(C=C23)C#N)OCC2CN(CCC2)C)C=C1)Cl | C23H23ClN4O2
reactant | pyridine | 2.33 mmol, 0.19 ml | N1=CC=CC=C1 | C5H5N
reactant | phenyl chloroformate | 1.16 mmol, 0.15 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | Cyclopropylamine | 2.91 mmol, 0.20 ml | C1(CC1)N | C3H7N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(2-Chloro-4-((6-cyano-7-((1-methyl-3-piperidyl)methoxy)-4-quinolyl)oxy)phenyl)-N′-cyclopropylurea | 0.393 mmol, 198.7 mg, 67.5% | ClC1=C(C=CC(=C1)OC1=CC=NC2=CC(=C(C=C12)C#N)OCC1CN(CCC1)C)NC(=O)NC1CC1 | C27H28ClN5O3
